US06423704B1
Stir a mixture of 2-methoxy-5-(3-methylsulfanyl-[1,2,4]triazol-4-yl)-benzoic acid methyl ester (0.28 g, 3.5 mmol), lithium hydroxide (0.041 g, 3.8 mmol), and 25% water in tetrahydrofuran (20 mL) overnight. Add 1N hydrochloric acid (3.9 mL) dropwise to pH 3. Concentrate to remove the tetrahydrofuran and collect the precipitate by vacuum filtration. Wash the filter cake twice with water and hexane, and dry in vacuo overnight to give 0.89 g of 2-methoxy-5-(3-methylsulfanyl-[1,2,4]triazol-4-yl)-benzoic acid as a solid.

reactant | 2-methoxy-5-(3-methylsulfanyl-[1,2,4]triazol-4-yl)-benzoic acid methyl ester | 3.5 mmol, 0.28 g | COC(C1=C(C=CC(=C1)N1C(=NN=C1)SC)OC)=O | C12H13N3O3S
reactant | lithium hydroxide | 3.8 mmol, 0.041 g | [OH-].[Li+]
reactant | water | O | H2O
reactant | hydrochloric acid | 1N, 3.9 mL | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-methoxy-5-(3-methylsulfanyl-[1,2,4]triazol-4-yl)-benzoic acid | 0.89 g | COC1=C(C(=O)O)C=C(C=C1)N1C(=NN=C1)SC | C11H11N3O3S
